US03975444
To 50 ml of a rapidly stirred 0.5 m sodium hydroxide solution maintained at 60°C was rapidly added a solution containing 4.0 g (15.5 mmoles) of 3,4-dinitro-α-chlorocinnamaldehyde dissolved in 10 ml of dioxane. The mixture was stirred for 5 minutes, at which time the solution was cooled and neutralized with 1N sulfuric acid. The reaction mixture was extracted into methylene chloride, and the combined extracts washed with several portions of water. The methylene chloride solution was reduced in volume to 25 ml and filtered through a 1 × 3 inch dry column of silica gel, eluting with methylene chloride. Evaporation of the eluate yielded 1.2 g (40% yield) of 3,4-dinitroethynyl benzene as a light brown oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3,4-dinitro-α-chlorocinnamaldehyde | 15.5 mmoles, 4.0 g | [N+](=O)([O-])C=1C=C(C=C(C=O)Cl)C=CC1[N+](=O)[O-] | C9H5ClN2O5
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3,4-dinitroethynyl benzene | 1.2 g, 40% yield | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])C#C | C8H4N2O4
